US08372823B2
Methyl 6-(2-(3-(4-(phenoxymethyl)phenyl)propanoyl)oxazol-5-yl)pyridine-3-carboxylate (46 mg, 0.10 mmol) was dissolved in THF/H2O (3:2, 10 mL) and LiOH (7 mg, 0.3 mmol) was added. The reaction solution was stirred at room temperature under an atmosphere of Ar for 15 min before the addition of 1 N HCl to adjust the solution to an acidic pH to quench the reaction. The reaction solution was diluted with EtOAc and the organic and aqueous layers were separated. The aqueous layer was extracted with EtOAc (3×). The organic phases were combined and washed with saturated aqueous NaCl, dried over Na2SO4, and concentrated in vacuo. The crude product was purified by tritration in ether to provide 6-(2-(3-(4-(phenoxymethyl)phenyl)propanoyl)oxazol-5-yl)pyridine-3-carboxylic acid as a white solid (35 mg, 79%): 1H NMR (THF-d8, 600 MHz) δ 9.18 (d, 1H, J=1.3 Hz), 8.41 (dd, 1H, J=8.2, 2.0 Hz), 7.97 (s, 1H), 7.94 (d, 1H, J=8.2 Hz), 7.35 (d, 2H, J=7.9 Hz), 7.28 (d, 2H, J=7.8 Hz), 7.22 (t, 2H, J=8.0 Hz), 6.95 (d, 2H, J=8.1 Hz), 6.87 (t, 1H, J=7.3 Hz), 2.09 (s, 2H), 3.43 (t, 2H, J=7.6 Hz), 3.06 (t, 2H, J=7.6 Hz); 13C NMR (THF-d8, 150 MHz) δ 187.1, 166.1, 160.1, 158.9, 153.5, 152.2, 150.3, 141.5, 139.2, 136.4, 130.0, 129.3, 129.1, 128.4, 127.5, 121.3, 120.1, 115.5, 70.2, 41.4, 30.1; HR ESI-TOF m/z 429.1443 (M+H+, C25H20N2O5, requires 429.1445).

reactant | Methyl 6-(2-(3-(4-(phenoxymethyl)phenyl)propanoyl)oxazol-5-yl)pyridine-3-carboxylate | 0.10 mmol, 46 mg | O(C1=CC=CC=C1)CC1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=C(C=N1)C(=O)OC | C26H22N2O5
reactant | LiOH | 0.3 mmol, 7 mg | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF H2O | 10 mL | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(2-(3-(4-(phenoxymethyl)phenyl)propanoyl)oxazol-5-yl)pyridine-3-carboxylic acid | 35 mg, 79% | O(C1=CC=CC=C1)CC1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=C(C=N1)C(=O)O | C25H20N2O5
